US08440692B2
6-Methyl-2-phenylquinolin-4(1H)-one (I-8-a)
A mixture of p-toluidine (2.14 g, 0.02 mole), ethyl benzoylacetate (4.9 g, 0.025 mole), and polyphosphoric acid (PPA) was heated at 130° C. with stirring. After the reaction was complete, the mixture was cooled to room temperature and neutralized with 4 M NaOH. The yellow solid was filtered, washed with water, dried and recrystallized from ethanol to give compound I-8-a as white solid (2.9 g, 48.9%).

reactant | p-toluidine | 0.02 mole, 2.14 g | NC1=CC=C(C=C1)C | C7H9N
reactant | ethyl benzoylacetate | 0.025 mole, 4.9 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | NaOH | 4 M | [OH-].[Na+]
product | 6-Methyl-2-phenylquinolin-4(1H)-one | CC=1C=C2C(C=C(NC2=CC1)C1=CC=CC=C1)=O | C16H13NO
